US04264518
To 11.0 mmol of cuprous iodide in 30 ml of dry diethyl ether at -40° under nitrogen is added 10.6 mmol of methyllithium in hexane, followed immediately by 13.0 mmol of tetramethylethylenediamine (TMEDA). After stirring for 30 min, the suspension is cooled to about -50°, and 10 mmol of the methyl ester of 7-methyl-7-octen-2-ynoic acid in 1 ml ether is added dropwise. The temperature is maintained at -45° to -50° for 20 min and then 2 ml of methanol is added dropwise to quench the reaction, followed by 1 ml sat. (NH4)2SO4. The suspension is allowed to warm to RT, after which the solid is filtered off and washed with ether. The combined organic layers are washed with sat. (NH4)2SO4, 5% HCl, sat. NaHCO3 and brine, then dried over CaSO4. The solvent is removed by distillation, yielding the Z methyl ester of 3,7-dimethyl-2,7-octadienoic acid.

reactant | methyllithium | 10.6 mmol | C[Li]
reactant | tetramethylethylenediamine | 13.0 mmol | CN(CCN(C)C)C | C6H16N2
reactant | 7-methyl-7-octen-2-ynoic acid | CC(CCCC#CC(=O)O)=C | C9H12O2
reactant | methanol | 2 ml | CO | CH4O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 1 ml | CCOCC | C4H10O
product | 3,7-dimethyl-2,7-octadienoic acid | CC(=CC(=O)O)CCCC(=C)C | C10H16O2
